US09238656B2
Synthesis of (1S,2S,3R,4R)-3-(6-Chloro-2-{1-[1-((R)-2-hydroxypropyl)-piperidin-4-yl]-1H-pyrazol-4-yl}-3H-imidazo[4,5-b]pyridine-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound LVIII)
(1S,2S,3R,4R)-3-[6-Chloro-2-(1-piperidin-4-yl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridine-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound LVII above) (100 mg, 0.2 mmol) was combined with (R)-(−)-propylene oxide (25.6 mg, 0.442 mmol) and MP-Carbonate (140 mg, 0.442 mmol) in methanol (10 mL) and stirred in a sealed tube overnight. The product was filtered and the filtrate concentrated to afford a solid which was purified via reverse phase chromatography (Gilson) to afford following extractive neutralization of fractions and concentration the title compound as a white solid. 1H NMR (d-chloroform): 14.01 (br s, 1H), 7.92 (s, 1H), 7.83 (s, 1H), 7.69 (s, 1H), 7.13 (br s, 1H), 6.83 (s, 1H), 6.37 (1, 2H), 6.15 (d, J=9 Hz, 1H), 5.25 (t, J=9 Hz, 1H), 4.26 (m, 1H), 3.89 (m, 1H), 3.22 (d, J=10 Hz, 1H), 3.11 (s, 1H), 2.99 (d, J=10 Hz, 1H), 2.86 (s, 1H), 2.81 (m, 2H), 2.66-2.13 (m, 7H), 2.03 (m, 2H), 1.61 (d, J=10 Hz, 1H), 1.22 (d, J=7 Hz, 3H). MS: 510.9 (M+H). HPLC retention time: 1.59 minutes (G Method).

reactant | (1S,2S,3R,4R)-3-[6-Chloro-2-(1-piperidin-4-yl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridine-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.2 mmol, 100 mg | ClC=1C(=C2C(=NC1)NC(=N2)C=2C=NN(C2)C2CCNCC2)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C22H25ClN8O
reactant | (R)-(−)-propylene oxide | 0.442 mmol, 25.6 mg | C1[C@@H](C)O1 | C3H6O
reactant | Carbonate | 0.442 mmol, 140 mg | C([O-])([O-])=O
solvent | methanol | 10 mL | CO | CH4O
product | (1S,2S,3R,4R)-3-(6-Chloro-2-{1-[1-((R)-2-hydroxypropyl)-piperidin-4-yl]-1H-pyrazol-4-yl}-3H-imidazo[4,5-b]pyridine-7-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | ClC=1C(=C2C(=NC1)NC(=N2)C=2C=NN(C2)C2CCN(CC2)C[C@@H](C)O)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C25H31ClN8O2
